US05808062
6-(4-Chlorophenyl)-4-hydroxy-3-[(2-isopropylphenyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 4'-chloroacetophenone (2.33 g, 15.1 mmol), trimethylsilyl triflate (3.5 mL, 18.1 mmol), triethylamine (4.26 mL, 30.6 mmol), methylene chloride (30 mL), and diethyl ester of [(2-isopropylphenyl)thio] propanedioic acid (3.11 g, 10.0 mmol) m.p. 148°-151° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.25 (d, 6H), 3.41 (m, 1H), 6.86 (s, 1H), 6.92 (m, 1H), 7.08 (m, 2H), 7.27 (m, 1H), 7.62 (m, 2H), 7.86 (m, 2H).

reactant | 4'-chloroacetophenone | 15.1 mmol, 2.33 g | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
reactant | trimethylsilyl triflate | 18.1 mmol, 3.5 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylamine | 30.6 mmol, 4.26 mL | C(C)N(CC)CC | C6H15N
reactant | [(2-isopropylphenyl)thio] propanedioic acid | 10.0 mmol, 3.11 g | C(C)(C)C1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C12H14O4S
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 6-(4-Chlorophenyl)-4-hydroxy-3-[(2-isopropylphenyl)thio]-2H-pyran-2-one | ClC1=CC=C(C=C1)C1=CC(=C(C(O1)=O)SC1=C(C=CC=C1)C(C)C)O | C20H17ClO3S
